US07691850B2
c) [5-({[4-(methoxy)phenyl]methyl}oxy)-4-oxo-1,4-dihydro-2-pyridinyl]methyl acetate
A solution of 2-(hydroxymethyl)-5-({[4-(methoxy)phenyl]methyl}oxy)-4(1H)-pyridinone (26 g, 0.1 mol) in pyridine (150 mL) was cooled to 5° C. and treated with acetyl chloride (10.48 ml, 0.149 mol). The reaction mixture was stirred and allowed to warm to room temperature then heated at 60° C. for 18 hours. Pyridine was evaporated under vacuum and the residue was triturated with water (250 mL), cooled in an ice-bath for 30 minutes. The solid formed was filtered off, washed with cold water and dried in vacuo to afford the product as a solid (15.7 g, 50%); MS (+ve ion electrospray) m/z 304 (MH+).

reactant | 2-(hydroxymethyl)-5-({[4-(methoxy)phenyl]methyl}oxy)-4(1H)-pyridinone | 0.1 mol, 26 g | OCC=1NC=C(C(C1)=O)OCC1=CC=C(C=C1)OC | C14H15NO4
reactant | acetyl chloride | 0.149 mol, 10.48 ml | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | 150 mL | N1=CC=CC=C1 | C5H5N
product | [5-({[4-(methoxy)phenyl]methyl}oxy)-4-oxo-1,4-dihydro-2-pyridinyl]methyl acetate | 15.7 g, 50% | C(C)(=O)OCC=1NC=C(C(C1)=O)OCC1=CC=C(C=C1)OC | C16H17NO5
